US06136823
Synthesis of 1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6-fluoro-7-(2,3-dihydroxy-n-propylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (150 mg), 3-amino-1,2-propanediol (45 ml) and triethylamine (150 mg) were added to pyridine (500 mg), and the mixture was stirred at 50° C. for 18 hours. The reaction mixture was concentrated under reduced pressure. A process of adding ethanol (2 ml) to the residue and then concentrating the mixture under reduced pressure was conducted twice repeatedly. Concentrated hydrochloric acid (60 mg) was added to the residue, and the mixture was concentrated under reduced pressure. Ethanol (1.5 ml) was added to the resultant residue, and deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (107 mg) as a colorless powder.

reactant | 1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 150 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C15H6ClF4N3O3
reactant | 3-amino-1,2-propanediol | 45 ml | NCC(CO)O | C3H9NO2
reactant | triethylamine | 150 mg | C(C)N(CC)CC | C6H15N
solvent | pyridine | 500 mg | N1=CC=CC=C1 | C5H5N
product | 1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6-fluoro-7-(2,3-dihydroxy-n-propylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 107 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NCC(CO)O)F)=O)C(=O)O)F)F | C18H14ClF3N4O5
